US05260307
170 mg of dimethylaminopyridine and 3.4 mg of pyridine are added to 3.0 g of t-butyl (S)-3-hydroxymethyl-1-piperidinecarboxylate. 1.66 ml of isobutyryl chloride are added dropwise thereto. The reaction mixture is then concentrated. The residue is taken up in ether and the ether phase is washed in succession with 20 ml of citric acid, water, sodium bicarbonate solution and water. After drying and evaporation of the ether phase there are obtained 3.9 g of t-butyl (S)-3-isobutyroxymethyl-1-piperidinecarboxylate, Rf=0.87 (ether). 3.09 g of this ester are dissolved in 80 ml of methylene chloride and treated with 20 ml of trifluoroacetic acid. After stirring for 30 minutes the solution is concentrated. 30 ml of methanol are added to the residue and saturated sodium bicarbonate solution is then added dropwise. The aqueous phase is extracted with methylene chloride and the methylene chloride extracts are dried and concentrated. There are obtained 2.82 g of (S)-3-iso- butyroxymethyl-1-piperidinecarboxylic acid trifluoroacetic acid salt, Rf=0.4 (Takeda solution).

reactant | dimethylaminopyridine | 170 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | t-butyl (S)-3-hydroxymethyl-1-piperidinecarboxylate | 3.0 g | OC[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | isobutyryl chloride | 1.66 ml | C(C(C)C)(=O)Cl | C4H7ClO
catalyst | pyridine | 3.4 mg | N1=CC=CC=C1 | C5H5N
product | t-butyl (S)-3-isobutyroxymethyl-1-piperidinecarboxylate | 3.9 g | C(C(C)C)(=O)OC[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H27NO4
